US04820817
A mixture of benzyl 6-(1-hydroxyethyl)-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (46 mg), 2-(N,N-dimethylamino)ethyl mercaptan hydrochloride (14.2 mg), and triethylamine (14 μl) in anhydrous DMF (2 ml) is stirred at room temperature (25° C.) for 2 hrs. The mixture is added to ethyl acetate (20 ml), washed with 5% sodium bicarbonate (10 ml), water (4×10 ml) and brine, dried over MgSO4, filtered, concentrated in vacuo. Purification of the residue by chromatography on silica gel gives benzyl 6-(1-hydroxyethyl)-3-(2-dimethylaminoethylthio)-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 6-(1-hydroxyethyl)-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 46 mg | OC(C)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)OS(=O)(=O)C=1C(=CC=CC1)C | C23H23NO7S
reactant | 2-(N,N-dimethylamino)ethyl mercaptan hydrochloride | 14.2 mg | Cl.CN(C)CCS
reactant | triethylamine | 14 μl | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | benzyl 6-(1-hydroxyethyl)-3-(2-dimethylaminoethylthio)-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | OC(C)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)SCCN(C)C | C20H26N2O4S
